US05932743
Step 2: 2-Phenyl-3-(4-phenyl-cyclohex-1-enyl)-1H-indole-6-carboxylic Acid
The title compound was prepared according to the procedure outlined in Example 7, employing 4-(2-phenylacetylenyl)-3-trifluoroacetamidobenzoic acid on Wang resin (prepared according to Example 3) and 4-phenylcyclohex-1-enyl trifluoromethanesulfonate; 1H NMR (DMSO-d6) δ 1.90 (m, 2 H), 2.40 (m, 3 H), 3.00 (m, 1 H), 5.90 (m, 1 H), 7.20 (m, 1 H), 7.30 (m, 5 H), 7.50 (m, 2 H), 7.75 (m, 5 H), 7.95 (m, 1 H), 11.60 (s, 1 H).

reactant | 4-(2-phenylacetylenyl)-3-trifluoroacetamidobenzoic acid | C1(=CC=CC=C1)C#CC1=C(C=C(C(=O)O)C=C1)NC(C(F)(F)F)=O | C17H10F3NO3
reactant | 4-phenylcyclohex-1-enyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC(CC1)C1=CC=CC=C1)(F)F | C13H13F3O3S
product | 2-Phenyl-3-(4-phenyl-cyclohex-1-enyl)-1H-indole-6-carboxylic Acid | C1(=CC=CC=C1)C=1NC2=CC(=CC=C2C1C1=CCC(CC1)C1=CC=CC=C1)C(=O)O | C27H23NO2
